US04568687
4-Chloro-N-[4-(1H-imidazol-1-yl)-2-butynyl]benzamide
A mixture of 2.68 g. of 4-(1H-imidazol-1-yl)-butynamine, 20 ml. of 1N sodium hydroxide and 75 ml. of methylene chloride was stirred and 2.6 ml. of 4-chlorobenzoyl chloride was added. The mixture was stirred for 18 hours, 5 ml. of 1N sodium hydroxide was added and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated to obtain the desired compound.

reactant | 4-(1H-imidazol-1-yl)-butynamine | N1(C=NC=C1)CCC#CN | C7H9N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[4-(1H-imidazol-1-yl)-2-butynyl]benzamide | ClC1=CC=C(C(=O)NCC#CCN2C=NC=C2)C=C1 | C14H12ClN3O
